US06472386B1
Synthesis of Ethyl 1-(3-Pyridylmethyl)-5-(3,4,5-trimethoxyphenyl)pyrazole-3-carboxylate
Ethyl 1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate (820 mg) was dissolved in DMF (4 mL), and to the solution potassium carbonate (325 mg) and 3-picolyl chloride hydrochloride (193 mg) were added, and the mixture was stirred at 50° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with water and saturated brine and dried over anhydrous sodium sulfate. After concentrating the diluted residue, the resultant residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2 to 0:1) to obtain the title compound.

reactant | Ethyl 1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate | 820 mg | COCN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OCC | C17H22N2O6
reactant | potassium carbonate | 325 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-picolyl chloride hydrochloride | 193 mg | Cl.N1=CC(=CC=C1)CCl
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(3-Pyridylmethyl)-5-(3,4,5-trimethoxyphenyl)pyrazole-3-carboxylate | N1=CC(=CC=C1)CN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OCC | C21H23N3O5
